US07355069B2
Methyl 2-{[(4-{3-[(2,4-difluorobenzyl)(heptyl)amino]-3-oxopropyl}phenyl)thio]methyl}benzoate (1.05 g, 1.89 mmol) was dissolved in EtOH (95%, 5 ml), potassium hydroxide (0.21 g, 3.77 mmol) was added. The reaction was performed in a single node microwave oven (7 min, 150° C.). Workup was by addition of EtOAc (5 ml) and washing with HCl (2×5 ml, 1M). The organic layer was dried (MgSO4) and the solvent was removed by evaporation to give 0.96 gram of 2-{[(4-{3-[(2,4-difluorobenzyl)(heptyl)amino]-3-oxopropyl}phenyl)thio]methyl}benzoic acid (yield 94.3%).

reactant | Methyl 2-{[(4-{3-[(2,4-difluorobenzyl)(heptyl)amino]-3-oxopropyl}phenyl)thio]methyl}benzoate | 1.89 mmol, 1.05 g | FC1=C(CN(C(CCC2=CC=C(C=C2)SCC2=C(C(=O)OC)C=CC=C2)=O)CCCCCCC)C=CC(=C1)F | C32H37F2NO3S
reactant | potassium hydroxide | 3.77 mmol, 0.21 g | [OH-].[K+]
reactant | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 ml | CCO | C2H6O
product | 2-{[(4-{3-[(2,4-difluorobenzyl)(heptyl)amino]-3-oxopropyl}phenyl)thio]methyl}benzoic acid | 0.96 gram, yield 94.3% | FC1=C(CN(C(CCC2=CC=C(C=C2)SCC2=C(C(=O)O)C=CC=C2)=O)CCCCCCC)C=CC(=C1)F | C31H35F2NO3S
